US04477447
To a solution of sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 5.0 g) in N,N-dimethylformamide (100 ml) was added tert-butyl bromoacetate (2.9 g), and the solution was stirred for 3 hours at ambient temperature. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate and water in turn, and dried over anhydrous magnesium sulfate. The solution was evaporated in vacuo to give tert-butoxycarbonylmethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 3.2 g), mp 188°-190° C. (dec.).

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 5.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)[O-])C1=O)=NOC.[Na+]
reactant | tert-butyl bromoacetate | 2.9 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | tert-butoxycarbonylmethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 3.2 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC(=O)OC(C)(C)C)C1=O)=NOC | C19H23N5O7S2
